US08431525B2
Under an argon atmosphere, 2-amino-3-benzyl-5-(4-methoxyphenyl)pyrazine (c-11) (prepared by the method described in Adamczyk M. et al., Org. Prep. Proced. Int., 33, 477-485 (2001)) (99.5 mg, 342 μmol) was dissolved in pyridine (1 mL) and cooled to 0° C. To this was added benzylsulfonyl chloride (84.7 mg, 444 μmol) and stirred for an hour after warming to room temperature. To this was added benzylsulfonyl chloride (13.8 mg, 72.3 μmol) and the mixture was stirred for 2.5 h. To this was further added benzylsulfonyl chloride (13.9 mg, 72.9 pimp and the mixture was stirred for 15 h. To this was further added benzylsulfonyl chloride (13.1 mg, 68.7 μmol) and the mixture was stirred for 5.5 h. To this was added 2 M hydrochloric acid to stop the reaction, and after separating the aqueous layer and organic layer, it was extracted 3 times with dichloromethane. The organic layer was washed with saturated aqueous solution of sodium sulfate and then dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the organic layer was concentrated under reduced pressure. The residue was purified by column chromatography (7 g, n-hexane/ethyl acetate=7/3→ethyl acetate). The resulting solid was recrystallized from ethyl acetate to give 3-benzyl-2-benzylsulfonylamino-5-(4-methoxyphenyl)pyrazine (c-18) as a colorless solid (56.0 mg, 36.8%). Rf=0.32 (n-hexane/ethyl acetate=7/3). Mp. 213-215° C. UV (MeOH, 0.3% DMSO) λmax (log ε) 334.5 (4.04), 290 (4.21), 276.5 (4.23). UV (pH 7.4 PB, 0.3% DMSO) λmax (log ε) 348.5 (3.90), 293 (3.95). 1H NMR (400 MHz, DMSO-d6) δ 3.80 (s, 3H), 4.22 (s, 2H), 4.91 (s, 2H), 7.02-7.07 (AA′BB′, 2H), 7.14-7.21 (m, 1H), 7.24-7.27 (m, 4H), 7.36 (s, 5H), 7.99 (d, J=7.3 Hz, 2H), 8.88 (s, 1H), 10.46 (s, 1H). 13C NMR (75.5 MHz, DMSO-d6) δ 38.0, 55.3, 59.6, 114.4 (2C), 126.3, 127.6 (2C), 128.1, 128.3 (2C), 128.4, 128.5 (2C), 129.0 (2C), 129.9, 130.9 (2C), 136.2, 138.1, 144.6, 145.8, 146.0, 160.3. IR (KBr, cm−1) 459, 538, 586, 698, 748, 785, 831, 893, 912, 926, 1032, 1121, 1132, 1177, 1215, 1256, 1287, 1319, 1395, 1452, 1495, 1516, 1609, 3231. HRMS (FAB+) m/z 446.1548 (M+H, C25H24N3O3S requires 446.1548).

reactant | 2-amino-3-benzyl-5-(4-methoxyphenyl)pyrazine | NC1=NC=C(N=C1CC1=CC=CC=C1)C1=CC=C(C=C1)OC | C18H17N3O
reactant | benzylsulfonyl chloride | 444 μmol, 84.7 mg | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | benzylsulfonyl chloride | 72.3 μmol, 13.8 mg | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | benzylsulfonyl chloride | 68.7 μmol, 13.1 mg | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 3-benzyl-2-benzylsulfonylamino-5-(4-methoxyphenyl)pyrazine | 56.0 mg, 36.8% | C(C1=CC=CC=C1)C=1C(=NC=C(N1)C1=CC=C(C=C1)OC)NS(=O)(=O)CC1=CC=CC=C1 | C25H23N3O3S
